US07893058B2
Step 3: (5-Bromo-imidazo[1,2-a]pyrazin-8-yl)-[6-(4-isopropyl-piperazin-1-yl)-pyridin-3-yl]-amine
To a solution of 5,8-dibromo-imidazo[1,2-a]pyrazine (0.85 g, 3.1 mmol) in isopropanol are added 6-(4-isopropyl-piperazin-1-yl)-pyridin-3-yl-amine (0.68 g, 3.1 mmol) and diisopropylethylamine (0.6 mL, 4.6 mmol) and the mixture is stirred at 90° C. for 48 hours. The solvent is removed in vacuo and the product taken up in DCM-10% citric acid. The organic layer is discarded and the aqueous solution basified with sat. NaHCO3 (pH 7-8) and extracted using DCM. The organic layer is dried over MgSO4, filtered and concentrated in vacuo to afford the title compound as a purple solid (0.92 g, 71%). HPLC (254 nm): Rt 3.30 min (95.8%); m/z 416/418 (M+H)+.

reactant | 5,8-dibromo-imidazo[1,2-a]pyrazine | 3.1 mmol, 0.85 g | BrC1=CN=C(C=2N1C=CN2)Br | C6H3Br2N3
reactant | 6-(4-isopropyl-piperazin-1-yl)-pyridin-3-yl-amine | 3.1 mmol, 0.68 g | C(C)(C)N1CCN(CC1)C1=CC=C(C=N1)N | C12H20N4
reactant | diisopropylethylamine | 4.6 mmol, 0.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | isopropanol | C(C)(C)O | C3H8O
product | (5-Bromo-imidazo[1,2-a]pyrazin-8-yl)-[6-(4-isopropyl-piperazin-1-yl)-pyridin-3-yl]-amine | 0.92 g, 71% | BrC1=CN=C(C=2N1C=CN2)NC=2C=NC(=CC2)N2CCN(CC2)C(C)C | C18H22BrN7
